US06395939B1
Synthesis of Ethyl 4-(3′,4′-dimethylphenoxy)benzoate
Ethyl 4-bromobenzoate (2.5 mmol), 3,4-dimethylphenol (3.5 or 5.0 mmol), molecular sieves (625 mg), Cs2CO3 (3.5 or 5.0 mmol), (CuOTf)2.PhH (0.0625 mmol, 5.0 mol % Cu), ethyl acetate (0.125 mmol, 5.0 mol %), and toluene (2.0 mL) were added to an oven-dried test tube which was then sealed with a septum, purged with argon, and heated to 110 C under argon until the aryl halide was consumed as determined by GC analysis. The reaction mixture was then allowed to cool to room temperature, diluted with Et2O and washed sequentially with 5% aqueous NaOH, water and brine. The organic layer was dried over Mg2SO4 and concentrated under vacuum to give the crude product. Purification by flash column chromatography (1% Et2O/pentane) gave the analytically pure product as a clear oil (425 mg, 63% yield). 1H NMR (300 MHz, CDCl3) δ 7.98 (d, J=8.6 Hz, 2H), 7.12 (d, J 8.0 Hz, 1H), 6.95 (d, J=8.6 Hz, 2H), 6.85 (d, J=2.4 Hz, 1H), 6.79 (dd, J=8.0 Hz, 2.3 Hz, 1H), 4.35 (q, J=7.0 Hz, 2H), 2.25 (s, 6H), 1.37 (t, J=7.0 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 166.1, 162.2, 153.3, 138.5, 132.8, 131.5, 130.8, 124.4, 121.3, 117.4, 116.8, 60.7, 19.9, 19.1, 14.3; IR (neat): 2978, 2931, 1713, 1595, 1495, 1367, 1261, 1226, 1161, 1102 cm−1. Anal. Calcd for C17H18O3: C, 75.53; H, 6.71. Found: C, 75.77; H, 6.67.

reactant | Ethyl 4-bromobenzoate | 2.5 mmol | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
reactant | 3,4-dimethylphenol | 5.0 mmol | CC=1C=C(C=CC1C)O | C8H10O
reactant | Cs2CO3 | 5.0 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | PhH | 0.0625 mmol | C1=CC=CC=C1 | C6H6
catalyst | ethyl acetate | 0.125 mmol | C(C)(=O)OCC | C4H8O2
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-(3′,4′-dimethylphenoxy)benzoate | 425 mg, 63% yield | CC=1C=C(OC2=CC=C(C(=O)OCC)C=C2)C=CC1C | C17H18O3
